US07365174B2
In an amount of 15.3 g of (R)-5-amino-2-hydroxypentanoic acid, which was synthesized from (D)-ornithine hydrochloride according to the method described in YAKUGAKU ZASSHI (Vol 87, (1967), 1184-1188), was dissolved in 150 ml of a mixed solvent of acetone/water (1:1), added dropwise simultaneously with 45.8 ml of 5 N aqueous sodium hydroxide and 11 ml of ethyl chloroformate under ice cooling over 40 minutes, and stirred under the same condition for 1 hour. The reaction system was washed with ethyl acetate, then the aqueous layer was adjusted to pH 1 by slowly adding 10 N hydrochloric acid, and extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate, and filtered. Then, the filtrate was concentrated under reduced pressure to obtain 24.4 g of crude (R)-5-ethoxycarbonylamino-2-hydroxypentanoic acid. Physicochemical Properties of this Compound

reactant | (R)-5-amino-2-hydroxypentanoic acid | 15.3 g | NCCC[C@H](C(=O)O)O | C5H11NO3
reactant | (D)-ornithine hydrochloride | Cl.N[C@H](CCCN)C(=O)O
reactant | sodium hydroxide | 5 N, 45.8 ml | [OH-].[Na+]
reactant | ethyl chloroformate | 11 ml | ClC(=O)OCC | C3H5ClO2
solvent | acetone water | CC(=O)C.O
product | (R)-5-ethoxycarbonylamino-2-hydroxypentanoic acid | 24.4 g | C(C)OC(=O)NCCC[C@H](C(=O)O)O | C8H15NO5
